US07157488B2
N-(2-(5-Benzyloxy-1H-indol-3-yl)ethyl)-N-methyl-3-phenoxy-benzylamine
Combine 1.0 M solution of LiAlH4-THF (13.4 mL, 13.4 mmol) and (3-phenoxy-benzyl)-(2-(5-benzyloxy-1H-indol-3-yl)-ethyl)-carbamic acid tert-butyl ester (1.83 g, 3.34 mmol) and slowly add 15 mL dry THF. After addition, heat the reaction mixture to reflux. After 4.5 h, cool down to room temperature. Quench the reaction by adding water (1.5 mL) cautiously, followed by 10% NaOH. Filter off the suspension and wash repeatedly with ether. Dry the organic solution over Na2SO4 and concentrate the solvent in vacuo. Purification by silica gel chromatography using CH2Cl2/MeOH as eluent to give the free base: 1H NMR (300 MHz, CDCl3) 2.35 (s, 3H), 2.69–2.74 (m, 2H), 2.91–2.96 9 m, 2H), 3.65 (s, 2H), 5.07 (s, 2H), 6.90–7.53 (m, 18H), 7.80 (s, 1H). This compound reacted further with oxalic acid to form the salt.

reactant | LiAlH4 THF | 13.4 mmol, 13.4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
reactant | (3-phenoxy-benzyl)-(2-(5-benzyloxy-1H-indol-3-yl)-ethyl)-carbamic acid tert-butyl ester | 3.34 mmol, 1.83 g | C(C)(C)(C)OC(N(CCC1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C35H36N2O4
reactant | NaOH | [OH-].[Na+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 1.5 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(2-(5-Benzyloxy-1H-indol-3-yl)ethyl)-N-methyl-3-phenoxy-benzylamine | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCN(C)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C31H30N2O2
